US07060844B2
To a slurry of [3-(6-fluoro-2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-yl]-acetic acid (449 mg, 1.38 mmol) in THF (20.0 ml) at room temperature was added 2.5M n-BuLi/Hexane (580 μl), and the reaction was stirred for 10 minutes. After cooling to 0° C., oxalyl chloride (690 μl, 1.38 mmol) was added. After 20 minutes, 4-(2-hydroxyethyl)morpholine (550 μ1, 4.14 mmol) was added. The mixture was stirred for 5 minutes at 0° C., and then at room temperature for 1 hour. The reaction was partitioned between EtOAc and water. The organic layer was washed with saturated NaHCO3 aqueous solution, brine, dried with anhydrous Na2SO4 and rotary evaporated to produce a brown-yellow foam. The brown-yellow foam was chromatographed through silica gel column (CHCl3 to 2.5% MeOH/CHCl3 gradient) to afford a yellow solid. The solid was dissolved in hot EtOAc/Hexane, allowed to cool to room temperature, and filtered to remove fluffy precipitate. The filtrate was cooled in refrigerator after concentrating the solution. The precipitate was filtered to give [3-(6-fluoro-2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-yl]-acetic acid 2-piperidin-1-yl-ethyl ester as a yellow solid (200 mg, 33%).

reactant | [3-(6-fluoro-2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-yl]-acetic acid | 1.38 mmol, 449 mg | FC1=CC=C2C(C(NC2=C1)=O)=C1OC(C2=CC=CC=C12)CC(=O)O | C18H12FNO4
reactant | n-BuLi Hexane | 2.5M, 580 μl | [Li]CCCC.CCCCCC
reactant | oxalyl chloride | 1.38 mmol, 690 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(2-hydroxyethyl)morpholine | 4.14 mmol | OCCN1CCOCC1 | C6H13NO2
solvent | THF | 20.0 ml | C1CCOC1 | C4H8O
solvent | EtOAc Hexane | CCOC(=O)C.CCCCCC
product | [3-(6-fluoro-2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-yl]-acetic acid 2-piperidin-1-yl-ethyl ester | 200 mg, 33% | N1(CCCCC1)CCOC(CC1OC(C2=CC=CC=C12)=C1C(NC2=CC(=CC=C12)F)=O)=O | C25H25FN2O4
